US04906634
N-(4-Nitrophenyl)-4-oxo-N-(phenylmethyl)hexanamide
To a solution of 22.8 g (0.1 mol) of 4-nitro-N-(phenylmethyl)benzenamine and 7.9 g (0.1 mol) of pyridine in 150 mL of methylene chloride cooled to 0° C. add slowly a solution of 16.3 g (0.11 mol) of 4-oxohexanoyl chloride (prepared from the acid and thionyl chloride or oxalyl chloride). When the addition is complete stir the solution and allow to warm slowly to room temperature. Follow the progress of the reaction by thin-layer chromatography on silica gel. At the completion of the reaction wash the solution with two 25 mL portions of 5% hydrochloric acid solution, two 25 mL portions of 5% sodium carbonate solution and 50 mL of saturated sodium chloride solution. Dry the organic phase over anhydrous sodium sulfate. Remove the drying agent by filtration and evaporate the solvent in vacuo to obtain the title compound.

reactant | 4-nitro-N-(phenylmethyl)benzenamine | 0.1 mol, 22.8 g | [N+](=O)([O-])C1=CC=C(C=C1)NCC1=CC=CC=C1 | C13H12N2O2
reactant | pyridine | 0.1 mol, 7.9 g | N1=CC=CC=C1 | C5H5N
reactant | 4-oxohexanoyl chloride | 0.11 mol, 16.3 g | O=C(CCC(=O)Cl)CC | C6H9ClO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Nitrophenyl)-4-oxo-N-(phenylmethyl)hexanamide | [N+](=O)([O-])C1=CC=C(C=C1)N(C(CCC(CC)=O)=O)CC1=CC=CC=C1 | C19H20N2O4
